US07919489B2
1-(5-Methylpyridin-2-yl)piperazine
3.47 g (12.5 mmol) of 1-(tert-butyloxycarbonyl)-4-(5-methylpyridin-2-yl)piperazine are dissolved in 10 ml of dioxane, and 31 ml (125 mmol) of hydrogen chloride in dioxane (4 molar) are added. The mixture is stirred at RT for 2 h. The mixture is then concentrated and the residue is rendered alkaline using a 1M aqueous sodium hydroxide solution and extracted several times with dichloromethane. The combined organic phases are dried over sodium sulfate, concentrated and dried in vacuo.

reactant | 1-(tert-butyloxycarbonyl)-4-(5-methylpyridin-2-yl)piperazine | 12.5 mmol, 3.47 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C | C15H23N3O2
reactant | hydrogen chloride | 125 mmol, 31 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 molar | O1CCOCC1 | C4H8O2
product | 1-(5-Methylpyridin-2-yl)piperazine | CC=1C=CC(=NC1)N1CCNCC1 | C10H15N3
